Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall, hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of hypertension, COPD who came 
to the ED on ___ after a fall now with hypoxia.

Patient reported falling onto her buttocks prior to evaluation 
and was omplaining of right hip pain. Pelvis and hip films 
revealed communited fracture of the R superior pubic ramus and 
possible fracture of the R inferior pubic ramus. CT of the head 
was w/o acute intracranial abnormality. Pt was initially triaged 
to have case manager and ___ evaluate for rehab placement. On 
___, pt was noted to have new oxygen requirement with desats 
(mid ___ on room air). This was thought to be d/t COPD 
exacerbation. CTA was ordered and did not show evidence of PE 
but did show a mildly displaced R ___ posterior rib fx of 
unclear acuity, multiple old fx's in ribs and spinous processes, 
mild pulmonary emphysema, and "2.1 cm subpleural lesion with 
internal aeration/cavitation in posterior left lower lobe" that 
was favored by radiology to represent rounded atelectasis.

ED:
Labs were significant for WBC 11.5, H/H 11.4/34.9, Plt 166, SCr 
0.9 (unknown baseline), INR 1.3, PTT 27.9, UA negative.
NCHCT notable for chronic microvascular ischemic changes, Pelvic 
x-ray revealed "Acute, comminuted fracture of the right superior 
pubic ramus and possible fracture of the right inferior pubic 
ramus." CXR showed no acute process, no definite rib fx's. 

During her ED stay, she received pain control, home lisinopril 
and HCTZ, tiotropium, SCH.  Once she was noted to be hypoxic, 
she was started on 500mg azithromycin and 40mg prednisone.

Vitals prior to transfer: 98.4 84 126/55 19 95% Nasal Cannula 

On arrival to the floor, pt reports that she came in after a 
fall. She had just had gotten to the ___s ___ on ___ 
(___). Was out of the car and pivoted to the R w/o shifting 
weight. Landed in "fetal position" on R side. Has had similar 
falls in the past. No prodromal sx-CP, palpitations, n/v. No 
LOC. No head strike. Continues to have pain in R pelvic area. 
Per the patient she has not noted worsening SOB over the last 
few days. Daughter notes that she has been on oxygen 
intermittently in the ED. She was not getting her Spiriva. 

Currently denies fevers, chills, CP, SOB, cough, congestion, 
rhinorrhea, nausea/vomiting, dysuria. Notes issues with 
urination as "urinating feels different." Says that when she 
coughs, urine comes out and she has been having issues 
urinating. Denies chest pain with exertion at home. No 
orthopnea. Reports that pain is mostly in the R buttock area. No 
recent travel, night sweats, change in weight. Travelled to 
___ many years ago but to never ___ world places such as 
___. Also reports that last ___ was on ___ and she is 
feeling distended. Has been passing gas. Daughter notes that 
memory has worsened and patient has good insight, but has not 
been formally worked up by PCP. Had fall in ___, which was 
similar to this most recent fall.

 
Past Medical History:
HTN
COPD
hyperlipidemia
Hysterectomy  
CCY  
 
Social History:
___
Family History:
Father- MI
Mother- ___
 
Physical Exam:
Exam upon admission:
VS:  98.1 136 / 77 81 20 95 2LNC 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, NCAT, PERRL, EOMI  
NECK: Supple without LAD, no JVD  
PULM: Diffuse wheezing heard throughout
COR: RRR, s1/s2 heard, no m/r/g
ABD: NABS, soft, LLQ and RLQ area appears distended, non tender 
to palpation in all four quadrants, and no rebound or guarding 
EXTREM: Warm, well-perfused, no ___ edema , RLE ___ thigh 
strength, ___ dorsiflexion and plantar flexion, ___ right leg 
strength, limited by pain 
NEURO: L pupil with upward gaze (chronic), EOMI, axo x3

Exam upon discharge:
VS:  97.9 155 / 77 78 20 93 2L 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, NCAT, PERRL, EOMI  
NECK: Supple without LAD, no JVD  
PULM: Diffuse wheezing heard throughout (improved from 
yesterday)
COR: RRR, s1/s2 heard, no m/r/g
ABD: NABS, soft, LLQ and RLQ area appears distended, non tender 
to palpation in all four quadrants, and no rebound or guarding 
EXTREM: Warm, well-perfused, no ___ edema , RLE ___ thigh 
strength, ___ dorsiflexion and plantar flexion, ___ right leg 
strength, limited by pain 
NEURO: L pupil with upward gaze (chronic), EOMI, axo x3

 
Pertinent Results:
ADMISSION LABS:

___ 09:10PM BLOOD WBC-11.5* RBC-3.58* Hgb-11.4 Hct-34.9 
MCV-98 MCH-31.8 MCHC-32.7 RDW-12.2 RDWSD-44.4 Plt ___
___ 09:10PM BLOOD ___ PTT-27.9 ___
___ 09:10PM BLOOD Glucose-119* UreaN-17 Creat-0.9 Na-135 
K-3.9 Cl-96 HCO3-28 AnGap-15
___ 09:10PM BLOOD Glucose-119* UreaN-17 Creat-0.9 Na-135 
K-3.9 Cl-96 HCO3-28 AnGap-15

DISCHARGE LABS:

___ 07:20AM BLOOD WBC-11.5* RBC-3.24* Hgb-10.2* Hct-31.1* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-12.1 RDWSD-42.3 Plt ___
___ 07:20AM BLOOD Glucose-98 UreaN-18 Creat-0.7 Na-146* 
K-3.8 Cl-103 HCO3-25 AnGap-22*

IMAGING:
CT HEAD ___
FINDINGS:  
  
There is no evidence of acute large territorial infarction, 
hemorrhage, edema, or mass.  There encephalomalacia related to 
prior infarcts as well as periventricular and subcortical white 
matter hypodensity,, likely representing chronic microvascular 
ischemic changes.  The ventricles and sulci are prominent, 
consistent with involutional changes.  There is calcification 
the bilateral carotid siphons and V4 segments of the bilateral 
carotid arteries. 
  
Incidentally noted tiny osteoma near the vertex ___ ___).  No 
fractures.  There is mucosal thickening in the right maxillary 
sinus.  There is a rightward nasal spur.  The paranasal sinuses, 
mastoid air cells, and middle ear cavities are otherwise clear.  
Status post bilateral lens replacements. 
  
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Sequelae of prior infarcts as well as periventricular and 
subcortical white matter hypodensity, likely representing 
chronic microvascular ischemic changes. 
3. No fractures. 

PELVIC/HIP PLAIN FILMS ___
FINDINGS:  
There is acute, comminuted fracture of the right superior pubic 
ramus. 
No additional fractures are identified. 
There are degenerative changes of the bilateral hips. 
Extensive phleboliths and vascular calcifications. 
  
IMPRESSION:  
Acute, comminuted fracture of the right superior pubic ramus and 
possible 
fracture of the right inferior pubic ramus.  No other fractures 
are 
identified. 

CXR ___
 
IMPRESSION:  
No acute cardiopulmonary process.  No obvious acute fracture 
identified, 
however, if there is clinical concern for such, dedicated rib 
series or CT is more sensitive. 

CTA ___
IMPRESSION: 

1. No evidence of pulmonary embolism or aortic abnormality. 
2. Mildly displaced  posterior right 11 rib fracture is of 
unclear acuity.  
Multiple old fractures are identified in multiple right ribs and 
right 
thoracic spine transverse process. 
3. Moderate hiatal hernia. 
4. Mild pulmonary emphysema. 
5. 2.1 cm subpleural lesion with internal aeration/cavitation in 
posterior 
left lower lobe is likely rounded atelectasis. 

PORTABLE ABDOMEN ___:
Report pending at discharge

 
Brief Hospital Course:
___ with PMHx of HTN, COPD who presented s/p fall with pelvic 
rami fractures, now admitted for ongoing pain control and 
hypoxia.

#Pelvic fracture and fall
Fall thought to be mechanical in nature. No prodromal sx. No 
LOC. CT head performed that was WNL. CTA revealed rib fractures, 
both acute and old. Plain films revealed "Acute, comminuted 
fracture of the right superior pubic ramus and possible fracture 
of the right inferior pubic ramus.  No other fractures are 
identified." Orthopedic evaluated and recommended physical 
therapy and pain control. No surgical intervention needed. ___ 
evaluated and recommended acute rehab.

#Hypoxia: 
Pt developed hypoxia to 84% on RA during ED visit. CTA without 
PE but does show mild emphysema. No e/o PNA. No hx c/w ACS or 
CHF & EKG w/o ischemia. Etiology thought to be due to COPD 
exacerbation. Pt treated with prednisone and azithromycin (end 
date ___. Pt also treated with standing nebulizer 
treatments. Pt initially required 2 L of supplemental O2 and was 
weaned to .5L (with saturations in the low ___ upon discharge.

#Abd distention:
Pt noted to have abdominal distention on exam. KUB was not read 
prior to discharge but prelim read by resident was w/o 
significant bowel dilation. Likely related to stool burden and 
pt should be treated with bowel regimen at rehab.

#HTN: 
Continued BP control with HCTZ and lisinopril
 
#HLD
Continued statin

**TRANSITIONAL ISSUES**
**TRANSITIONAL ISSUES**
NEW MEDICATIONS:
--Prednisone 40 mg daily to complete 5 day course (day ___, 
day ___
--Azithromycin 250 mg daily to complete 5 day course (day ___, day ___
--Albuterol inhaler. Patient did not have rescue inhaler upon 
admission.
--Treated pain with standing tylenol and PRN tramadol and 
oxycodone
-Patient noted to have constipation and should be treated with 
bowel regimen at rehab.
-F/u final read on ___
-Please continue to wean oxygen. Patient is not on home o2. 
Complete prednisone and azithromycin course for COPD 
exacerbation. Patient may also benefit from nebulizer treatments 
as well.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Simvastatin 10 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB/wheez  
3.  Azithromycin 250 mg PO Q24H Duration: 4 Days  
4.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
5.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 6 hours Disp #*10 
Tablet Refills:*0 
6.  PredniSONE 40 mg PO DAILY Duration: 4 Days  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Mild 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth q 6 hours Disp 
#*10 Tablet Refills:*0 
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Lisinopril 40 mg PO DAILY  
10.  Simvastatin 10 mg PO QPM  
11.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Comminuted fracture of the right superior pubic ramus
Acute on chronic COPD exacerbation
Rib fractures

Secondary diagnoses: 
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

What brought you into the hospital?
-You came to the hospital after a fall.

What happened while you were in the hospital?
-You were found to have a pelvic rami fracture. The orthopedic 
surgery team saw you and this fracture does not require surgery.
-While in the emergency department, you developed low oxygen. We 
think this is because of a COPD exacerbation. We treated you 
with steroids, nebulizer treatments, and azithromycin.

What should you do when you leave the hospital?
-You will be going to ___ for rehab.
-We have started you on two new medications- prednisone 40 mg 
and azithromycin 250 mg. You will take these medications for 
several more days. You should stop taking them on ___.
-We also wrote you for a COPD rescue inhaler. This is called 
albuterol. You should use this ONLY when you feel short of 
breath. Keep taking your Spiriva every day.
-You will also receive medications to relieve your pain at 
rehab. It is important that you take these before you engage in 
rehabilitation exercises.

It was a pleasure taking care of you.

Best,
Your ___ Team
 
Followup Instructions:
___